US06001835
Step E: 1-Phenyl-2-piperdinone
A mixture of valerolactam (1.00 g, 10.18 mmol), triphenylbismuth (6.72 g, 15.27 mmol), copper(II)acetate (2.77 g, 15.27 mmol) and triethylamine (2.12 mL, 15.27 mmol) was stirred for 17 h at 20° C. in dichloromethane (25 mL). The reaction mixture was adsorbed onto silica gel and chromatographed with 40% ethyl acetate/methylene chloride. The title compund was obtained as an oil.

reactant | valerolactam | 10.18 mmol, 1.00 g | C1(CCCCN1)=O | C5H9NO
reactant | triphenylbismuth | 15.27 mmol, 6.72 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
reactant | triethylamine | 15.27 mmol, 2.12 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | copper(II)acetate | 15.27 mmol, 2.77 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-Phenyl-2-piperdinone | C1(=CC=CC=C1)N1C(CCCC1)=O | C11H13NO
